US07576074B2
Ethyl octahydro-2H-quinolizine-3-carboxylate (2.35 g, 11.1 mmol) was added dropwise to a stirred suspension of lithium aluminum hydride (1 M solution in tetrahydrofuran, 33 mL, 33 mmol) in tetrahydrofuran (50 mL) at 0° C. The reaction was stirred at room temperature for 3 h. The mixture was cooled in an ice bath and ethyl acetate (6 mL) was added slowly, followed by water (1.25 mL), 15% aqueous sodium hydroxide solution (5 mL) and water (1.25 mL). The mixture was filtered through a pad of celite and washed with ether. The filtrate was concentrated in vacuo and dried rigorously to afford octahydro-2H-quinolizin-3-ylmethanol as a yellow oil (1.66 g, 9.82 mmol, 88% yield). MS (EI) for C10H19NO: 170 (MH+).

reactant | Ethyl octahydro-2H-quinolizine-3-carboxylate | 11.1 mmol, 2.35 g | C1CC(CN2CCCCC12)C(=O)OCC | C12H21NO2
reactant | lithium aluminum hydride | 33 mmol, 1 M, 33 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 1.25 mL | O | H2O
solvent | water | 1.25 mL | O | H2O
product | octahydro-2H-quinolizin-3-ylmethanol | 9.82 mmol, 1.66 g, 88% yield | C1CC(CN2CCCCC12)CO | C10H19NO
